US05523404
5-Chloro-4-hydroxy-6-isopropylpyrimidine
45.1 g (0.24 mol) of ethyl 3-amino-2-chloro-4-methyl-2-pentenoate are reacted with 36.8 g (0.59 mol) of formamide and 109 ml of sodium methylate solution in 130 ml of methanol and worked up in analogy to Example 9. Yield: 34.5 g (83.3%)

reactant | ethyl 3-amino-2-chloro-4-methyl-2-pentenoate | 0.24 mol, 45.1 g | NC(=C(C(=O)OCC)Cl)C(C)C | C8H14ClNO2
reactant | formamide | 0.59 mol, 36.8 g | C(=O)N | CH3NO
reactant | sodium methylate | 109 ml | C[O-].[Na+]
solvent | methanol | 130 ml | CO | CH4O
product | 5-Chloro-4-hydroxy-6-isopropylpyrimidine | ClC=1C(=NC=NC1C(C)C)O | C7H9ClN2O
